US07320994B2
[5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-hydroxy-ethyl)-isoxazol-4-yl]-(2-chloro-phenyl)-methanone oxime
To a solution of [5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-hydroxy-ethyl)-isoxazol-4-yl]-(2-chloro-phenyl)-methanone (1 eq) in pyridine. Add hydroxylamine HCl (10 eq) and reflux and stir overnight. Quench with H2O, extract with ethyl acetate, and concentrate. Remove remaining pyridine by azeotrope with heptane (2×) in vacuo. Dissolve in CH2Cl2, dry over MgSO4, filter and concentrate under vacuum. Purify by radial chromatography on silica gel to give the title compound. MS (IS) 635.96 (M+1), 1H NMR (CD3Cl): δ 9.59 (br s, 1H), 7.76 (s, 1H), 7.49-6.90 (m, 11H), 5.34 (s, 2H), 3.94 (t, J=5.6 Hz, 2H), 3.07 (t, J=5.6 Hz, 2H).

reactant | [5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-hydroxy-ethyl)-isoxazol-4-yl]-(2-chloro-phenyl)-methanone | 1 eq | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C2=C(C(=NO2)CCO)C(=O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C29H19ClF6N4O3
reactant | hydroxylamine HCl | 10 eq | Cl.NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | [5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-hydroxy-ethyl)-isoxazol-4-yl]-(2-chloro-phenyl)-methanone oxime | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C2=C(C(=NO2)CCO)C(=NO)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C29H20ClF6N5O3
